US07851469B2
4-[1-(4-Methoxy-phenyl)-1H-imidazol-4-yl]-3-phenyl-5-trifluoromethyl-isoxazole
As described for Example 1j, 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole (100 mg, 0.36 mmol) was converted, using 4-methoxyphenylboronic acid instead of phenylboronic acid, to the title compound (90 mg, 65%) which was obtained as a white solid. MS (ESI): m/e=386.1 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-3-phenyl-5-trifluoromethyl-isoxazole | 0.36 mmol, 100 mg | N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1 | C13H8F3N3O
reactant | 4-methoxyphenylboronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 4-[1-(4-Methoxy-phenyl)-1H-imidazol-4-yl]-3-phenyl-5-trifluoromethyl-isoxazole | 90 mg, 65% | COC1=CC=C(C=C1)N1C=NC(=C1)C=1C(=NOC1C(F)(F)F)C1=CC=CC=C1 | C20H14F3N3O2
